Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Augmentin
 
Attending: ___.
 
Chief Complaint:
Shortness of breath
 
Major Surgical or Invasive Procedure:
Right sided chest tube placement

 
History of Present Illness:
Hospital Medicine Admission Note
.
PCP: Dr. ___
.
Time patient seen and examined today: 2230
.
CC: ___ pain 
.
The history is obtained with the assistance of the ___
interpreter over the telephone. 
.
HPI(4): Ms. ___ is a ___ female with a family history
of pneumothorax and well controlled asthma on flovent who
presents with chest pain that began 5 days ago. She was in her
general state of good health until she awoke 5 days ago with R
sided chest pain present in her R shoulder and R flank/back. The
pain was worse with breathing and bending forward. The pain grew
more intense the next day and she laid in bed and rested. The
pain improved but was still present so she went to see her PCP
___. Her PCP ordered ___ cxr which demonstrated a PTX and  thus
she was advised to go to the ED. Her pain has improved to a ___
and is not worsened by breathing or movement. She does not 
report
night sweats, weight loss, exposure to TB, recent foreign 
travel,
recent long car rides or flights. She has not had malaise. She
has not had fevers, chills or a cough. She does not have n/v/d.
She does not have dysuria. 
ROS: Pertinent positives and negatives as noted in the HPI.  All
other systems were reviewed and are negative. 

 
Past Medical History:
Moderate persistent Asthma without complication- on flovent bid.
No nocturnal symptoms. No sob on exertion. Does not impair her
daily activities.
Blue ___
Menorrhagia with regular cycle
Anemia
Shingles
Iron deficiency anemia
Ovarian cysts
Family history of colon cancer
 
Social History:
___
Family History:
 Her father had a PTX at age ___. He was a heavy smoker and
died of PNA at age ___. He used to smoke in front of her when she
was a little girl and thus has had second hand smoke exposure.
Her mother had colon cancer but it is now in remission. 
 
Physical Exam:
Admission exam: 
___ Temp: 98.2 PO BP: 108/66 HR: 70 RR: 18 O2
sat: 97% O2 delivery: 4L via NC Dyspnea: 0 RASS: 0 Pain Score:
___ 
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally. + BRONCHIAL SOUNDS ON RIGHT
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  No HSM
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: pleasant, appropriate affect

Discharge exam: 
0736 T 98.2 PO BP 107/71 Pulse 62 RR 18 ___
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally. Chest tube in R anterior chest wall now removed; 
dressing site c/d/i
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present. No HSM
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: pleasant, appropriate affect

 
Pertinent Results:
Admission labs: 

___ 04:45PM BLOOD WBC-6.7 RBC-4.56 Hgb-13.7 Hct-41.4 MCV-91 
MCH-30.0 MCHC-33.1 RDW-12.8 RDWSD-42.2 Plt ___
___ 04:45PM BLOOD Glucose-91 UreaN-10 Creat-0.7 Na-135 
K-7.7* Cl-105 HCO3-21* AnGap-9*

Discharge Labs: 

___ 05:50AM BLOOD WBC-6.5 RBC-4.32 Hgb-13.0 Hct-38.6 MCV-89 
MCH-30.1 MCHC-33.7 RDW-12.4 RDWSD-41.1 Plt ___
___ 05:50AM BLOOD Glucose-94 UreaN-7 Creat-0.6 Na-142 K-4.1 
Cl-111* HCO3-20* AnGap-11
___ 05:50AM BLOOD ALT-12 AST-12 LD(LDH)-124 AlkPhos-44 
TotBili-0.5

Imaging: ___ and final CXR in long series with Chest tube 
placed and clamped in the interim)

CXR: ___

Small to moderate right apical pneumothorax with minimal 
leftward displacement of the mediastinum. 

CXR: ___

No pneumothorax is seen.  Lungs are clear.  Heart size is 
normal. There is no pleural effusion.  A right-sided pigtail 
catheter is in place 

CT Chest: ___

No evidence of emphysema or bullous disease within the lungs.  
No structural cause for the patient's pneumothorax (trace 
pneumothorax at the right lung apex). 
  
Trace intermediate density right pleural effusion may reflect a 
small amount of blood products relating to the chest tube 
placement. 

 
Brief Hospital Course:
___ ___ speaking female with h/o asthma, family h/o 
pneumothorax and h/o second tobacco smoke exposure who presents 
with a spontaneous pneumothorax now s/p chest tube placement 
___ with resolving PTX. Now s/p successful clamping trial with 
chest tube removal ___.

#Spontaneous primary pneumothorax:
Unclear etiology on presentation; noted pulm hx includes second 
hand smoke exposure, well controlled asthma. Prior PFTs 
equivocal.
Repeat CXR suggested that PTX worsened on arrival to floor 
despite 02 therapy so a chest tube was placed with IP on ___ 
which was c/b vasovagal rxn (as below).
Pt was noted to have radiographic resolution of PTX the 
following day and thus underwent successful clamp trial and 
removal (___) on the day of discharge.
A CT scan was undertaken for further workup without clear 
underlying etiology; thus working dx is primary spontaneous 
pneumothorax. Pulm recommended no air travel for 4 weeks, no 
diving indefinitely. Plan for 4 week pulmonary ___ with CXR, to 
be arranged.
Pain at chest tube site was controlled with scheduled APAP, 
Toradol and prn  oxycodone. Her pain resolved with chest tube 
removal. 

#Vasovagal rxn:
Noted to have acute drop in HR to ___, transient SBPs to 80-90s 
immediately after/during IP procedure. Improved with time, IVFs. 
Impression was transient vasovagal rxn.

CHRONIC/STABLE PROBLEMS:
# ASTHMA: Continue inhaler
# MENORRHAGIA: Resumed home OCP (NF, pt to bring in from home).

Transitional issues:
--------------------
[  ] Safety precautions to reinforce:
- No air travel for 4 weeks 
- no diving indefinitely 
[  ] 4 week pulm ___ + CXR (to be scheduled)

>30 Minutes were spent in discharge planning and coordination of 
care on the day of discharge
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Fluticasone Propionate 110mcg 2 PUFF IH BID 
2. Seasonique (L norgest/e.estradiol-e.estrad) 0.15 mg-30 mcg 
(84)/10 mcg (7) oral DAILY 
3. Albuterol Inhaler 2 PUFF IH Q6H:PRN sob 

 
Discharge Medications:
1.  Acetaminophen 325-650 mg PO Q6H:PRN Pain - Mild/Fever  
2.  Albuterol Inhaler 2 PUFF IH Q6H:PRN sob  
3.  Fluticasone Propionate 110mcg 2 PUFF IH BID  
4.  Seasonique (L norgest/e.estradiol-e.estrad) 0.15 mg-30 mcg 
(84)/10 mcg (7) oral DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Spontaneous pneumothorax

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You came to the hospital for evaluation of shortness of breath 
and were found to have a spontaneous right sided pneumothorax 
(collapsed lung).

You were seen by the lung doctors who placed a chest tube with 
resolution of the lung collapse. 

A CT scan of your chest to look for underlying lung problems did 
not show any abnormalities.

IMPORTANT PRECAUTIONS:
- No air travel for 4 weeks 
- No diving indefinitely

It was a pleasure taking care of you!

 
Followup Instructions:
___